US05750545
(1) 3-Amino-5-(4-cyanophenylthio)-1H-1,2,4-triazole
To 60% sodium hydride-in-oil (3.89 g) in dimethylformamide (50 ml) was dropwise added a solution (100 ml) of 3-amino-5-mercapto-1H-1,2,4-triazole (10.0 g) in dimethylformamide under ice-cooling. After the dropwise addition, the mixture was stirred at 0° C.-room temperature for 30 minutes and ice-cooled again. A solution (50 ml) of 4-chlorobenzonitrile (13.0 g) in dimethylformamide was dropwise added. The mixture was stirred at 0° C.-room temperature for 30 minutes and at 100°-110° C. for 33 hours. After the reaction, the mixture was cooled to room temperature and added with water, followed by stirring for 30 minutes. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The crude product was subjected to silica gel column chromatography (chloroform-methanol) to give 1.86 g of white crystals (yield 9.9%).

reactant | sodium hydride | 3.89 g | [H-].[Na+]
reactant | 3-amino-5-mercapto-1H-1,2,4-triazole | 100 ml, 10.0 g | NC1=NNC(=N1)S | C2H4N4S
reactant | 4-chlorobenzonitrile | 50 ml, 13.0 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Amino-5-(4-cyanophenylthio)-1H-1,2,4-triazole | 1.86 g, yield 9.9% | NC1=NNC(=N1)SC1=CC=C(C=C1)C#N | C9H7N5S
